US04366315
342 mg (0.98 mmole) of 3-methyl-7-phenylacetamido-3-cephem-4-carboxylic acid-1-oxide were suspended in 25 ml of dichloromethane and the mixture was heated to refluxed 157 mg of N-trimethylsilylacetamide (1.20 mmoles) were added thereto and refluxing was continued for 3/4 hour. To the clear, colorless solution obtained, 50 mg of amidosulfonic acid (0.51 mmoles) were added and the mixture was diluted to 40 ml with dichloromethane. The ice-cooled solution was brominated in half an hour using 280 mg (1.57 mmoles) of N-bromosuccinimide as the brominating agent to obtain a yield of 49% of trimethylsilyl 3-bromomethyl-7-phenylacetamido-3-cephem-4-carboxylic acid-1-oxide.

reactant | 3-methyl-7-phenylacetamido-3-cephem-4-carboxylic acid-1-oxide | 0.98 mmole, 342 mg | CC=1CS([C@H]2N(C1C(=O)O)C(C2NC(CC2=CC=CC=C2)=O)=O)=O | C16H16N2O5S
reactant | N-trimethylsilylacetamide | 1.20 mmoles, 157 mg | C[Si](NC(C)=O)(C)C | C5H13NOSi
reactant | amidosulfonic acid | 0.51 mmoles, 50 mg | NS(=O)(=O)O | H3NO3S
reactant | N-bromosuccinimide | 1.57 mmoles, 280 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | trimethylsilyl 3-bromomethyl-7-phenylacetamido-3-cephem-4-carboxylic acid-1-oxide | yield of 49% | C[Si](C)(C)C1S([C@H]2N(C(=C1CBr)C(=O)O)C(C2NC(CC2=CC=CC=C2)=O)=O)=O | C19H23BrN2O5SSi
